US05362744
(±)N-Phenyl-N-[2-[8-[(tetrahydro-2H-pyran-2-yl)oxy]-octyl]-2H-tetrazol-5-yl]-N'-(2,4.6-trimethoxyphenyl)-urea
When in the procedure of Example 1(f) an appropriate amount of (±)N-phenyl-2-[8-[(tetrahydro-2H-pyran-2-yl)oxy]octyl]-2H-tetrazol-5-amine was substituted for 2-dodecyl-N-phenyl-2H-tetrazol-5-amine, and reacted with triphosgene and 2,4,6-trimethoxyaniline hydrochloride in the presence of two equivalents of diisopropylethylamine, the title compound was obtained. 1H NMR (CDCl3): 8.7 (br s, 0.6H), 8.6 (br s, 0.4H), 7.4 (m, 5H), 6.2 (s, 2H), 4.6 (m, 1H), 4.5 (m, 2H), 3.8 (two s, 9H), 3.7 (m, 1H), 3.6 (t, 1H), 3.5 (m, 1H), 3.4 (m, 1H), 1.9 (m, 2H), 1.7-1.9 (m, 6H), 1.6 (m, 4H), 1.3 (m, 6H).

reactant | (±)N-phenyl-2-[8-[(tetrahydro-2H-pyran-2-yl)oxy]octyl]-2H-tetrazol-5-amine | C1(=CC=CC=C1)NC=1N=NN(N1)CCCCCCCCOC1OCCCC1 | C20H31N5O2
reactant | 2-dodecyl-N-phenyl-2H-tetrazol-5-amine | C(CCCCCCCCCCC)N1N=C(N=N1)NC1=CC=CC=C1 | C19H31N5
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2,4,6-trimethoxyaniline hydrochloride | Cl.COC1=C(N)C(=CC(=C1)OC)OC
reactant | diisopropylethylamine | two equivalents | C(C)(C)N(CC)C(C)C | C8H19N
product | (±)N-Phenyl-N-[2-[8-[(tetrahydro-2H-pyran-2-yl)oxy]-octyl]-2H-tetrazol-5-yl]-N'-(2,4.6-trimethoxyphenyl)-urea | C1(=CC=CC=C1)N(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C=1N=NN(N1)CCCCCCCCOC1OCCCC1 | C30H42N6O6
